US07144876B2
5-(3-Chloro-1-methyl-1H-pyrrol-2-yl)-3-(4-chloro-phenyl)-[1,2,4]-oxadiazole
A mixture of 3-(4-chloro-phenyl)-5-(3-chloro-1H-pyrrol-2-yl)-[1,2,4]-oxadiazole (30.0 mg, 0.11 mmol), iodomethane (0.08 ml, 0.17 mmol) and potassium carbonate (23 mg, 0.17 mmol) in dimethylformamide (2 ml) was heated at 85° C. for 4 h. It was diluted by water (20 ml) and the mixture was extracted by EtOAc. The extracts were evaporated, and the residue was purified by column chromatography (EtOAc: Hexane=1:1) to give 12.0 mg (37%) of the title compound. 1H NMR (CDCl3): 8.11–8.07 (m, 2H), 7.50–7.45 (m, 2H), 6.84 (d, J=3.0 Hz, 1H), 6.28 (d, J=3.3 Hz, 1H), 4.08 (s, 3H).

reactant | 3-(4-chloro-phenyl)-5-(3-chloro-1H-pyrrol-2-yl)-[1,2,4]-oxadiazole | 0.11 mmol, 30.0 mg | ClC1=CC=C(C=C1)C1=NOC(=N1)C=1NC=CC1Cl | C12H7Cl2N3O
reactant | iodomethane | 0.17 mmol, 0.08 ml | IC | CH3I
reactant | potassium carbonate | 0.17 mmol, 23 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-(3-Chloro-1-methyl-1H-pyrrol-2-yl)-3-(4-chloro-phenyl)-[1,2,4]-oxadiazole | 12.0 mg, 37% | ClC1=C(N(C=C1)C)C1=NC(=NO1)C1=CC=C(C=C1)Cl | C13H9Cl2N3O
